US07517889B2
A mixture of 5-bromo-2,3-dihydro-benzofuran-2-carboxylic acid (0.74 g, 2.83 mmol), bis(pinacolato)diboron (1.51 g, 5.94 mmol), potassium acetate (1.47 g, 15 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride DCM complex (115 mg, 0.14 mmol) in dimethylsulfoxide (10 mL) is degassed with bubbling nitrogen for 5 minutes. The mixture is heated to 90° C. for 16 hours. The reaction mixture is cooled, diluted with water (200 mL) and brine (25 mL), and filtered through Celite followed by water (200 mL) and EtOAc (200 mL). The filtrate is extracted twice with EtOAc (200 mL) and the extracts are concentrated in vacuo. The residue is subjected to flash column chromatography on silica (4 g) eluting with 80 to 100% EtOAc in heptane to afford 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-carboxylic acid (715 mg) as an oil. MS: 289 (M−H), 1H NMR [300 MHz, (CD3)2SO]: δ 13.05 (1H, s); 7.5 (2H, m); 6.8 (1H, m); 5.2 (1H, m); 3.6 (1H, m); 3.3 (1H, m); 1.05 (12H, s).

reactant | 5-bromo-2,3-dihydro-benzofuran-2-carboxylic acid | 2.83 mmol, 0.74 g | BrC=1C=CC2=C(CC(O2)C(=O)O)C1 | C9H7BrO3
reactant | bis(pinacolato)diboron | 5.94 mmol, 1.51 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15 mmol, 1.47 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-carboxylic acid | 715 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(CC(O2)C(=O)O)C1)C | C15H19BO5
